US09238644B2
(d) 2-(2-Ethynylphenyl)butanamide (K1)
To a solution of 2-(2-((trimethylsilyl)ethynyl)phenyl)butanamide (I3) (149 mg, 0.574 mmol) in DCM (10.0 mL) at 0° C. under nitrogen was added TBAF (1.0 M in THF, 0.86 mL, 0.86 mmol). The resulting mixture was stirred at 0° C. for 5 minutes then poured into water (50 mL). The organic phase was separated and the aqueous layer was extracted with DCM (2×40 mL). The combined organic layers were washed with brine (40 mL), dried over MgSO4 and the solvent was removed in vacuo. The residue was adsorbed onto silica gel and purified by column chromatography (Biotage Isolera, SiO2 cartridge, 0-75% EtOAc in petroleum benzine 40-60° C.) to give the title compound K1 as an off-white solid (104 mg, 97%); 1H NMR (400 MHz, d6-DMSO) δ 7.50-7.43 (m, 2H), 7.35 (td, J=7.7, 1.5 Hz, 1H), 7.31 (s, 1H), 7.23 (td, J=7.5, 1.3 Hz, 1H), 6.93 (s, 1H), 4.37 (s, 1H), 3.85 (dd, J=8.6, 6.4 Hz, 1H), 1.97-1.83 (m, 1H), 1.61 (J m, 1H), 0.84 (t, J=7.3 Hz, 3H). LCMS-A: rt 5.265 min; m/z 188 [M+H]+.

reactant | 2-(2-((trimethylsilyl)ethynyl)phenyl)butanamide | 0.574 mmol, 149 mg | C[Si](C)(C)C#CC1=C(C=CC=C1)C(C(=O)N)CC | C15H21NOSi
reactant | TBAF | 0.86 mmol, 1.0 M, 0.86 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | 50 mL | O | H2O
solvent | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-Ethynylphenyl)butanamide | C(#C)C1=C(C=CC=C1)C(C(=O)N)CC | C12H13NO
